US04939241
To a solution of N-benzyloxycarbonyl-L-threonine (5 g) in acetic acid (50 ml) was added acetyl bromide (1.75 ml) at room temperature. After stirring for an hour at room temperature, the reaction mixture was concentrated and the residue was diluted with ethyl acetate and washed successively with water (2 times) and brine. After drying over sodium sulfate, the ethyl acetate extract was filtered and concentrated to give O-acetyl-N-benzyloxycarbonyl-L-threonine (3.64 g).

reactant | N-benzyloxycarbonyl-L-threonine | 5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@H](O)C)C(=O)O | C12H15NO5
reactant | acetyl bromide | 1.75 ml | C(C)(=O)Br | C2H3BrO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | O-acetyl-N-benzyloxycarbonyl-L-threonine | 3.64 g | C(C)(=O)O[C@@H]([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)O)C | C14H17NO6
